US07572784B2
tert-Butyl 3-(4-chloro-2-(3-fluoropicolinoyl)phenyl)prop-2-ynylcarbamate (3am)
In a manner similar to that described above for compound 3al, 3-(4-chloro-2-(methoxy(methyl)carbamoyl)phenyl)prop-2-ynylcarbamic acid tert-butyl ester and 2-bromo-3-fluoropyridine were converted to 3am (45% yield): MS m/z=389 (M+H).

reactant | 3-(4-chloro-2-(methoxy(methyl)carbamoyl)phenyl)prop-2-ynylcarbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC#CC1=C(C=C(C=C1)Cl)C(N(C)OC)=O)=O | C17H21ClN2O4
reactant | 2-bromo-3-fluoropyridine | BrC1=NC=CC=C1F | C5H3BrFN
product | tert-Butyl 3-(4-chloro-2-(3-fluoropicolinoyl)phenyl)prop-2-ynylcarbamate | 45% yield | ClC1=CC(=C(C=C1)C#CCNC(OC(C)(C)C)=O)C(C1=NC=CC=C1F)=O | C20H18ClFN2O3
